US04649144
3-Amino-1-benzylpyrrolidine [J. Med. Chem., 11, 1034 (1968)] was allowed to react with formic acid and formamide to give 1-benzyl-3-formylaminopyrrolidine. This compound was reduced with sodium bis(2-methoxyethoxy)-aluminium hydride to give 1-benzyl-3-methylaminopyrrolidine, b.p. 134°-136° C./5-6 mmHg. This compound was treated with acetic anhydride to give 3-(N-acetyl-N-methylamino)-1-benzylpyrrolidine, b.p. 144°-147° C./0.5 mmHg. This compound was hydrogenated catalytically in the presence of 5% palladium-carbon to give 3-(N-acetyl-N-methylamino)-pyrrolidine as an oil.

reactant | 3-Amino-1-benzylpyrrolidine | NC1CN(CC1)CC1=CC=CC=C1 | C11H16N2
reactant | formamide | C(=O)N | CH3NO
solvent | formic acid | C(=O)O | CH2O2
product | 1-benzyl-3-formylaminopyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)NC=O | C12H16N2O
